US05362743
In a flame-dried, three-necked round-bottomed reaction flask equipped with reflux condenser, magnetic stirring bar and addition funnel, there were placed 1.72 g (0.00535 mole) of 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline (the product of Preparation C) dissolved in 15 mL of dry tetrahydrofuran. Stirring was commenced and the resulting organic solution was then treated dropwise with a solution consisting of 573 mg (0.00535 mole) of o-toluidine (available from the Aldrich Chemical Company, Inc. of Milwaukee, Wis.) dissolved in 15 mL of dry tetrahydrofuran. The resulting reaction mixture was then stirred and heated to 60° C. and thereafter kept at that temperature for a period of approximately 16 hours (i.e., overnight). Upon completion of this step, the final reaction mixture was slowly allowed to cool to ambient temperatures (ca. 20° C.) and the yellow precipitate which resulted was subsequently collected by means of suction filtration and air-dried on the filter funnel to constant weight. Recrystallization of the latter crude salt material from methylene chloride/ethyl acetate/petroleum ether then gave 1.75 g (76%) of pure 3-(3-ethoxycarbonylpropionyl)-8-methoxy-4-(2-methylphenylamino)quinoline as the hydrochloride salt, m.p. 210°-211° C. The pure product was further characterized by means of mass spectrum (MS) analysis and nuclear magnetic resonance (NMR) data, in addition to elemental analysis.

reactant | 4-chloro-3-(3-ethoxycarbonylpropionyl)-8-methoxyquinoline | 0.00535 mole, 1.72 g | ClC1=C(C=NC2=C(C=CC=C12)OC)C(CCC(=O)OCC)=O | C16H16ClNO4
reactant | o-toluidine | 0.00535 mole, 573 mg | NC=1C(=CC=CC1)C | C7H9N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxycarbonylpropionyl)-8-methoxy-4-(2-methylphenylamino)quinoline | 1.75 g, 76% | C(C)OC(=O)CCC(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OC | C23H24N2O4
